US07060827B2
In like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine and 3-fluoroaniline were reacted to yield N4-(3,4-ethylenedioxyphenyl)-N2-(3-fluorophenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 7.76 (d, 1H, J=5.6 Hz), 7.39 (m, 2H), 7.14 (d, 1H, J=2.4 Hz), 6.94–6.85 (m, 3H), 6.75 (d, 1H, J=9 Hz), 4.21 (s, 4H); LCMS: ret. time: 22.60 min.; purity: 100%; MS (m/e): 357 (MH+).

reactant | 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C12H9ClFN3O2
reactant | 3-fluoroaniline | FC=1C=C(N)C=CC1 | C6H6FN
product | N4-(3,4-ethylenedioxyphenyl)-N2-(3-fluorophenyl)-5-fluoro-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)F | C18H14F2N4O2
